datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17],55.9819
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([S:8][H:14])[C:9](=[S:10])[H:15])([H:11])([H:12])[H:13]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:11])([H:12])[H:13])([S:8][H:14])[C:9](=[S:10])[H:15],110.039
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([O:16][O:17])([H:23])[H:24])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:17][O:16][C:15]([C:13](=[C:12]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:23])[H:24],53.563568
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][c:13]1[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]([H:22])[c:18]1[H:23],-23.4304
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:13]([C:12](=[C:11]([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])([H:5])[H:6],76.4835
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[O:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])[H:10])[H:8])([H:6])[H:7].[H:9][O:16],5.06264
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:13][H:14],6.635824
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:6],67.3206
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[O:10])[H:14])([H:11])([H:12])[H:13]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:11])([H:5])([H:6])[H:7].[C:8]([C:9](=[O:10])[H:14])([H:12])[H:13],97.269632
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:8])[H:7],64.7683
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([C:6](=[C:7]([H:16])[H:17])[H:15])[H:18])[H:11])[H:10])([H:8])[H:9],9.6232
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:5],81.2114
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([S:6][H:9])([H:7])[H:8]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]([S:6][H:9])([H:7])[H:8],65.2704
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][H:17],10.807272
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:10],70.7096
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([H:13])[H:14])[H:12])([H:10])([H:11])[H:17].[C:3](=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16],224.898368
